US08067445B2
Step 1: (5-Benzyloxy-2-chloro-phenyl)-acetic acid
To benzyl alcohol (1.1 g, 10 mmol) in NMP (20 mL) was added sodium hydride (60% in mineral oil; 0.44 g, 11 mmol), and the mixture was stirred for 30 minutes at room temperature. The mixture was then added to a vial containing 2-chloro-5-fluorophenylacetic acid (1 g, 4.5 mmol), and the reaction was stirred at 120° C. for 3 hours. Acidic work-up gave the title compound.

reactant | benzyl alcohol | 10 mmol, 1.1 g | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 11 mmol, 0.44 g | [H-].[Na+]
reactant | 2-chloro-5-fluorophenylacetic acid | 4.5 mmol, 1 g | ClC1=C(C=C(C=C1)F)CC(=O)O | C8H6ClFO2
solvent | NMP | 20 mL | CN1CCCC1=O | C5H9NO
product | (5-Benzyloxy-2-chloro-phenyl)-acetic acid | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)CC(=O)O)Cl | C15H13ClO3
